US03984549
10 G. of freshly distilled 2-pyridylisothiocyanate is dissolved in 100 ml. of acetonitrile and the reaction mixture stirred at room temperature for 2 days. The solid precipitate is filtered and washed with fresh acetonitrile affording 3-(2-pyridyl) pyrido (1,2-a) 1,3,5-triazine-2,4-dithione m.p. 107°-109° C.

reactant | 2-pyridylisothiocyanate | N1=C(C=CC=C1)N=C=S | C6H4N2S
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-(2-pyridyl) pyrido (1,2-a) 1,3,5-triazine-2,4-dithione | N1=C(C=CC=C1)N1C(N=C2N(C1=S)C=CC=C2)=S | C12H8N4S2
